US07790746B2
4-[(1E)-N-(Diaminomethylene)ethanehydrazonoyl]benzoic acid hydrochloride (L2).
4-Acetylbenzoic acid (L1) (1.041 g, 6.34 mmol), amino guanidine bicarbonate (1.12 g, 8.2 mmol, 1.3 eq) and c.HCl (0.7 ml, 7.0 mmol) in MeOH (30 mL) was refluxed for 1 h. The reaction mixture was diluted with EtOAc cooled to 20° C. and the resulting precipitate was filtered and recrytallized from MeOH/EtOAc to give L2 (887 mg, 55%), mp (MeOH/EtOAc)>300° C.; 1H NMR ([(CD3)2SO] δ 7.97-7.89 (m, 4H, ArH), 6.75 (br, 4H, 2×NH2), 2.25 (s, 3H, CH3), mass APCl+221.

reactant | 4-Acetylbenzoic acid | 6.34 mmol, 1.041 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | amino guanidine bicarbonate | 8.2 mmol, 1.12 g, 1.3 eq | C(O)(O)=O.NNC(=N)N
reactant | HCl | 7.0 mmol, 0.7 ml | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(1E)-N-(Diaminomethylene)ethanehydrazonoyl]benzoic acid hydrochloride | Cl.NC(=N/N=C(\C)/C1=CC=C(C(=O)O)C=C1)N | InChI=1S/C10H12N4O2.ClH/c1-6(13-14-10(11)12)7-2-4-8(5-3-7)9(15)16;/h2-5H,1H3,(H,15,16)(H4,11,12,14);1H/b13-6+;
